US08222424B2
2-Chloro-5-[4-(3-phenyl-propoxy)-benzoyl]-benzenesulfonamide
2-Chloro-N-dimethylaminomethylene-5-(4-hydroxy-benzoyl)-benzenesulfonamide (250 mg, 0.68 mmol) is dissolved in N,N,-dimethylformamide (5 mL). Potassium carbonate (235 mg, 1.7 mmol) is then added followed by (3-bromo-propyl)-benzene (135 mg, 0.68 mmol). The reaction is heated to 65° C. for 18 hours. The reaction mixture is diluted with water and extracted with ethyl acetate, the organic layer is separated and concentrated in vacuo. The crude ether is purified by column chromatography (gradient of ethyl acetate in hexanes 25-75%). The residue is dissolved in ethanol (3 mL), treated with concentrated HCl (400 μl) and heated to reflux for 2.5 hours after which the reaction is allowed to cool to ambient temperature overnight. The volatiles were removed in vacuo and the crude sulfonamide is purified by column chromatography (gradient of ethyl acetate in hexanes 20-70%) affording 10 mg of the title compound. 1H NMR (DMSO) δ 2.02-2.11 (m, 2H), 2.76 (t, 2H, J=7.16 Hz), 4.10 (t, 2H, J=6.41 Hz), 7.10 (d, 2H, J=8.67 Hz), 7.17-7.32 (m, 5H), 7.75-7.91 (m, 6H), 8.24 (d, 1H, J=1.88 Hz). MS (m/z): 430 (M+1).

reactant | 2-Chloro-N-dimethylaminomethylene-5-(4-hydroxy-benzoyl)-benzenesulfonamide | 0.68 mmol, 250 mg | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)O)=O)S(=O)(=O)N=CN(C)C | C16H15ClN2O4S
reactant | Potassium carbonate | 1.7 mmol, 235 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3-bromo-propyl)-benzene | 0.68 mmol, 135 mg | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | N,N,-dimethylformamide | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-Chloro-5-[4-(3-phenyl-propoxy)-benzoyl]-benzenesulfonamide | 10 mg | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OCCCC1=CC=CC=C1)=O)S(=O)(=O)N | C22H20ClNO4S
